US07381719B2
2-Methyl-4-(2-nitro-vinyl)-phenol
Dissolve 2-methyl-4-hydroxy-benzaldehyde (980 mg, 6.3 mmol), nitromethane (2.0 mL, 37.7 mmol) and ammonium acetate (1.9 g, 25.1 mmol) in acetic acid (9 mL). Heat eh reaction mixture at 110° C. for 2 hours. Concentrate the reaction mixture under reduced pressure and partition the residue between ether and water. Separate the layers and dry with Na2SO4, filter and concentrate under reduced pressure to afford a crude product. Purify the crude by flash chromatography (eluent: EtOAc/hexane 20/80 and 30/70) to afford the title compound (1.0 g). 1H-NMR (CDCl3, 200 MHz): 7.94 (d, 1H, J=13.4 Hz), 7.50 (d, 1H, J=13.6 Hz), 7.34-7.27 (m, 2H), 6.82 (d, 1H, J=8.1 Hz), 2.28 (s, 3H).

reactant | 2-methyl-4-hydroxy-benzaldehyde | 6.3 mmol, 980 mg | CC1=C(C=O)C=CC(=C1)O | C8H8O2
reactant | nitromethane | 37.7 mmol, 2.0 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 25.1 mmol, 1.9 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 9 mL | C(C)(=O)O | C2H4O2
product | 2-Methyl-4-(2-nitro-vinyl)-phenol | 1.0 g | CC1=C(C=CC(=C1)C=C[N+](=O)[O-])O | C9H9NO3
